US09126931B2
2-(1,1-Dimethylprop-2-ynyl)-4-methoxy-benzoic acid methyl ester
To the THF (18 ml) solution of 2-(1,1-dimethyl-3-trimethylsilanylprop-2-ynyl)-4-methoxy-benzoic acid methyl ester (Compound AA2, 912 mg, 3 mmol), tetrabutylammonium fluoride (2.061 g, 2.6 eq.) was added, and then stirred for 3 hr at room temperature. To the reaction solution, saturated aqueous solution of ammonium chloride was added followed by extraction with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (yellow oily substance, 524 mg, 75%).

reactant | 2-(1,1-dimethyl-3-trimethylsilanylprop-2-ynyl)-4-methoxy-benzoic acid methyl ester | 3 mmol, 912 mg | COC(C1=C(C=C(C=C1)OC)C(C#C[Si](C)(C)C)(C)C)=O | C17H24O3Si
reactant | tetrabutylammonium fluoride | 2.061 g, 2.6 eq. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 2-(1,1-Dimethylprop-2-ynyl)-4-methoxy-benzoic acid methyl ester | 524 mg, 75% | COC(C1=C(C=C(C=C1)OC)C(C#C)(C)C)=O | C14H16O3
